* File: G3_LATQ1_N1.pex.netlist.pex
* Created: Tue Apr  5 11:43:13 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G3_LATQ1_N1_VDD 2 4 6 8 10 12 14 31 34 42 48 66 68 69 70 73 75 76 79
+ 81 85 89 91 92 94 100 105 Vss
c91 105 Vss 0.00462608f
c92 100 Vss 0.00538553f
c93 92 Vss 2.39889e-19
c94 91 Vss 3.56526e-19
c95 89 Vss 0.002537f
c96 87 Vss 0.00169593f
c97 85 Vss 9.25444e-19
c98 81 Vss 0.00432906f
c99 79 Vss 0.00113626f
c100 76 Vss 8.64506e-19
c101 75 Vss 0.00220359f
c102 73 Vss 0.00166444f
c103 70 Vss 8.63529e-19
c104 69 Vss 0.00558368f
c105 68 Vss 0.00685141f
c106 66 Vss 0.00204371f
c107 53 Vss 0.0307391f
c108 48 Vss 0.230209f
c109 42 Vss 0.0346914f
c110 41 Vss 0.0656875f
c111 34 Vss 6.95602e-20
c112 32 Vss 0.0348624f
c113 31 Vss 0.1003f
c114 14 Vss 0.0852073f
c115 12 Vss 0.00176834f
c116 10 Vss 0.0837105f
c117 8 Vss 0.0825478f
c118 6 Vss 0.0832227f
c119 4 Vss 0.0825437f
c120 2 Vss 0.00231819f
r121 87 94 0.326018
r122 87 89 4.83471
r123 85 105 1.16709
r124 83 85 2.16729
r125 82 92 0.494161
r126 81 94 0.326018
r127 81 82 7.41879
r128 79 100 1.16709
r129 77 92 0.128424
r130 77 79 2.16729
r131 75 92 0.494161
r132 75 76 4.41793
r133 71 91 0.0828784
r134 71 73 1.82344
r135 69 83 0.652036
r136 69 70 10.1279
r137 68 76 0.652036
r138 67 91 0.551426
r139 67 68 13.3371
r140 66 91 0.551426
r141 65 70 0.652036
r142 65 66 4.16786
r143 49 53 0.494161
r144 48 50 0.652036
r145 48 49 6.8853
r146 45 53 0.128424
r147 44 105 0.238214
r148 42 44 1.45875
r149 41 53 0.494161
r150 41 44 1.45875
r151 38 42 0.652036
r152 34 100 0.238214
r153 32 34 1.5171
r154 31 35 0.652036
r155 31 34 1.4004
r156 28 32 0.652036
r157 14 50 2.5674
r158 12 89 1.16709
r159 10 45 2.5674
r160 8 38 2.5674
r161 6 28 2.5674
r162 4 35 2.5674
r163 2 73 1.16709
.ends

.subckt PM_G3_LATQ1_N1_VSS 2 4 6 8 10 12 16 31 32 42 48 66 71 76 81 90 95 104
+ 106 107 108 113 114 119 129 130 132 Vss
c83 130 Vss 3.75522e-19
c84 129 Vss 4.28045e-19
c85 125 Vss 0.00127887f
c86 119 Vss 0.00326191f
c87 114 Vss 8.18866e-19
c88 113 Vss 0.00406272f
c89 108 Vss 8.24051e-19
c90 107 Vss 0.00164689f
c91 106 Vss 0.00145595f
c92 104 Vss 0.0042874f
c93 95 Vss 0.00390998f
c94 90 Vss 0.00430366f
c95 81 Vss 0.0025736f
c96 76 Vss 6.81193e-19
c97 71 Vss 9.80151e-19
c98 66 Vss 0.00132247f
c99 53 Vss 0.0307391f
c100 48 Vss 0.230436f
c101 42 Vss 0.0338877f
c102 41 Vss 0.0647949f
c103 32 Vss 0.0341879f
c104 31 Vss 0.0984533f
c105 16 Vss 0.085351f
c106 12 Vss 0.0838423f
c107 10 Vss 0.0825458f
c108 8 Vss 0.00178431f
c109 6 Vss 0.00237018f
c110 4 Vss 0.0842992f
c111 2 Vss 0.0825494f
r112 125 132 0.326018
r113 120 130 0.494161
r114 119 132 0.326018
r115 119 120 7.46046
r116 115 130 0.128424
r117 113 121 0.652036
r118 113 114 10.1279
r119 109 129 0.0828784
r120 107 130 0.494161
r121 107 108 4.37625
r122 106 114 0.652036
r123 105 129 0.551426
r124 105 106 4.16786
r125 104 129 0.551426
r126 103 108 0.652036
r127 103 104 13.3371
r128 81 125 4.83471
r129 76 95 1.16709
r130 76 121 2.16729
r131 71 90 1.16709
r132 71 115 2.16729
r133 66 109 1.82344
r134 49 53 0.494161
r135 48 50 0.652036
r136 48 49 6.8853
r137 45 53 0.128424
r138 44 95 0.238214
r139 42 44 1.45875
r140 41 53 0.494161
r141 41 44 1.45875
r142 38 42 0.652036
r143 34 90 0.238214
r144 32 34 1.45875
r145 31 35 0.652036
r146 31 34 1.45875
r147 28 32 0.652036
r148 16 50 2.5674
r149 12 45 2.5674
r150 10 38 2.5674
r151 8 81 1.16709
r152 6 66 1.16709
r153 4 28 2.5674
r154 2 35 2.5674
.ends

.subckt PM_G3_LATQ1_N1_G 2 4 6 14 15 22 31 37 Vss
c28 37 Vss 0.00243204f
c29 31 Vss 4.35685e-19
c30 29 Vss 0.0294543f
c31 22 Vss 0.152644f
c32 15 Vss 0.175771f
c33 14 Vss 3.53242e-19
c34 10 Vss 0.0247918f
c35 6 Vss 0.0835217f
c36 4 Vss 0.0840272f
c37 2 Vss 0.0715834f
r38 34 37 1.16709
r39 31 34 0.0833571
r40 23 29 0.494161
r41 22 24 0.652036
r42 22 23 4.84305
r43 19 29 0.128424
r44 18 37 0.0476429
r45 16 18 0.326018
r46 16 18 0.1167
r47 15 29 0.494161
r48 15 18 6.7686
r49 14 37 0.357321
r50 10 18 0.326018
r51 10 14 0.40845
r52 6 24 2.5674
r53 4 19 2.5674
r54 2 14 2.15895
.ends

.subckt PM_G3_LATQ1_N1_QN 2 4 6 8 17 20 23 40 45 48 53 69 Vss
c48 69 Vss 3.70906e-19
c49 53 Vss 0.0021144f
c50 48 Vss 0.00799496f
c51 45 Vss 0.00464908f
c52 40 Vss 7.75457e-19
c53 23 Vss 1.9003e-19
c54 20 Vss 0.213496f
c55 17 Vss 0.0714043f
c56 15 Vss 0.0247918f
c57 8 Vss 0.00402754f
c58 6 Vss 0.00402754f
c59 4 Vss 0.0829687f
r60 65 69 0.652036
r61 48 69 13.7956
r62 48 50 4.58464
r63 45 48 4.58464
r64 40 53 1.16709
r65 40 65 1.83386
r66 23 53 0.0476429
r67 21 23 0.326018
r68 21 23 0.1167
r69 20 24 0.652036
r70 20 23 6.7686
r71 17 53 0.357321
r72 15 23 0.326018
r73 15 17 0.40845
r74 8 50 1.16709
r75 6 45 1.16709
r76 4 24 2.5674
r77 2 17 2.15895
.ends

.subckt PM_G3_LATQ1_N1_GN 2 6 12 27 29 30 32 39 Vss
c46 39 Vss 0.00259221f
c47 32 Vss 2.5038e-19
c48 30 Vss 7.22041e-19
c49 29 Vss 0.00123575f
c50 27 Vss 9.12307e-19
c51 12 Vss 0.171268f
c52 6 Vss 0.17763f
c53 2 Vss 0.00172036f
r54 32 39 1.16709
r55 29 32 0.531835
r56 29 30 1.70882
r57 25 30 0.652036
r58 25 27 4.00114
r59 14 39 0.197068
r60 12 16 0.652036
r61 12 14 4.668
r62 6 16 5.835
r63 2 27 1.16709
.ends

.subckt PM_G3_LATQ1_N1_Q 2 18 Vss
c12 18 Vss 4.14768e-19
c13 2 Vss 0.00150258f
r14 2 18 1.16709
.ends

.subckt PM_G3_LATQ1_N1_D 2 4 10 14 Vss
c14 14 Vss 4.15825e-19
c15 10 Vss 1.35847e-19
c16 2 Vss 0.365962f
r17 14 17 0.0416786
r18 10 17 1.16709
r19 4 10 6.4185
r20 2 10 6.4185
.ends

