* File: G3_LATQ1_N2.pex.netlist.pex
* Created: Tue Apr  5 11:38:39 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G3_LATQ1_N2_VDD 2 4 6 8 10 12 14 16 31 42 44 48 58 63 66 68 69 70 71
+ 72 75 77 81 85 90 92 98 103 Vss
c89 103 Vss 0.00490183f
c90 98 Vss 0.00460926f
c91 90 Vss 2.39889e-19
c92 85 Vss 0.00243594f
c93 83 Vss 0.0016991f
c94 81 Vss 9.06638e-19
c95 77 Vss 0.0042879f
c96 75 Vss 7.26394e-19
c97 72 Vss 8.65068e-19
c98 71 Vss 0.0022063f
c99 70 Vss 8.64091e-19
c100 69 Vss 0.00567616f
c101 68 Vss 0.00905486f
c102 66 Vss 0.00502493f
c103 63 Vss 0.00660615f
c104 58 Vss 0.00394659f
c105 53 Vss 0.0307649f
c106 48 Vss 0.231494f
c107 44 Vss 7.7692e-20
c108 42 Vss 0.0357051f
c109 41 Vss 0.0656875f
c110 32 Vss 0.035919f
c111 31 Vss 0.101295f
c112 16 Vss 0.00143442f
c113 14 Vss 0.137165f
c114 10 Vss 0.136745f
c115 8 Vss 0.135164f
c116 6 Vss 0.13553f
c117 4 Vss 0.135175f
r118 83 92 0.326018
r119 83 85 5.2515
r120 81 103 1.16709
r121 79 81 2.16729
r122 78 90 0.494161
r123 77 92 0.326018
r124 77 78 7.46046
r125 75 98 1.16709
r126 73 90 0.128424
r127 73 75 2.16729
r128 71 90 0.494161
r129 71 72 4.37625
r130 69 79 0.652036
r131 69 70 10.1279
r132 68 72 0.652036
r133 67 68 15.5461
r134 66 89 2.334
r135 66 67 0.14525
r136 65 70 0.652036
r137 65 66 4.62632
r138 63 85 1.16709
r139 58 89 1.16709
r140 49 53 0.494161
r141 48 50 0.652036
r142 48 49 6.8853
r143 45 53 0.128424
r144 44 103 0.0476429
r145 42 44 1.45875
r146 41 53 0.494161
r147 41 44 1.45875
r148 38 42 0.652036
r149 34 98 0.0476429
r150 32 34 1.45875
r151 31 35 0.652036
r152 31 34 1.45875
r153 28 32 0.652036
r154 16 63 0.185659
r155 14 50 3.8511
r156 12 63 0.185659
r157 10 45 3.8511
r158 8 38 3.8511
r159 6 28 3.8511
r160 4 35 3.8511
r161 2 58 0.185659
.ends

.subckt PM_G3_LATQ1_N2_VSS 2 4 6 8 10 12 14 16 31 32 34 42 48 58 63 66 71 76 81
+ 90 95 104 106 107 108 113 114 119 129 130 132 Vss
c81 130 Vss 3.75522e-19
c82 129 Vss 4.28045e-19
c83 125 Vss 0.00128107f
c84 119 Vss 0.00326562f
c85 114 Vss 8.21919e-19
c86 113 Vss 0.00415461f
c87 108 Vss 8.27105e-19
c88 107 Vss 0.00171853f
c89 106 Vss 0.00164009f
c90 104 Vss 0.00508678f
c91 95 Vss 0.00436437f
c92 90 Vss 0.00392783f
c93 81 Vss 0.0023337f
c94 76 Vss 5.9672e-19
c95 71 Vss 4.65089e-19
c96 66 Vss 0.00142325f
c97 63 Vss 0.00655541f
c98 58 Vss 0.00751018f
c99 53 Vss 0.0307649f
c100 48 Vss 0.231624f
c101 42 Vss 0.0348714f
c102 41 Vss 0.0648006f
c103 34 Vss 1.05421e-19
c104 32 Vss 0.0350852f
c105 31 Vss 0.0994129f
c106 16 Vss 0.137353f
c107 14 Vss 0.00143442f
c108 12 Vss 0.137077f
c109 10 Vss 0.135163f
c110 4 Vss 0.135531f
c111 2 Vss 0.135176f
r112 125 132 0.326018
r113 120 130 0.494161
r114 119 132 0.326018
r115 119 120 7.46046
r116 115 130 0.128424
r117 113 121 0.652036
r118 113 114 10.1279
r119 109 129 0.0828784
r120 107 130 0.494161
r121 107 108 4.37625
r122 106 114 0.652036
r123 105 129 0.551426
r124 105 106 4.58464
r125 104 129 0.551426
r126 103 108 0.652036
r127 103 104 15.5878
r128 81 125 5.2515
r129 76 95 1.16709
r130 76 121 2.16729
r131 71 90 1.16709
r132 71 115 2.16729
r133 66 109 1.82344
r134 63 81 1.16709
r135 58 66 1.16709
r136 49 53 0.494161
r137 48 50 0.652036
r138 48 49 6.8853
r139 45 53 0.128424
r140 44 95 0.0476429
r141 42 44 1.45875
r142 41 53 0.494161
r143 41 44 1.45875
r144 38 42 0.652036
r145 34 90 0.0476429
r146 32 34 1.45875
r147 31 35 0.652036
r148 31 34 1.45875
r149 28 32 0.652036
r150 16 50 3.8511
r151 14 63 0.185659
r152 12 45 3.8511
r153 10 38 3.8511
r154 8 63 0.185659
r155 6 58 0.185659
r156 4 28 3.8511
r157 2 35 3.8511
.ends

.subckt PM_G3_LATQ1_N2_G 2 4 6 14 15 22 31 37 Vss
c26 37 Vss 0.00234039f
c27 31 Vss 4.77975e-19
c28 29 Vss 0.0295006f
c29 22 Vss 0.152742f
c30 15 Vss 0.17649f
c31 14 Vss 2.16373e-19
c32 10 Vss 0.0247918f
c33 6 Vss 0.137829f
c34 4 Vss 0.138596f
c35 2 Vss 0.125945f
r36 34 37 1.16709
r37 31 34 0.0833571
r38 23 29 0.494161
r39 22 24 0.652036
r40 22 23 4.84305
r41 19 29 0.128424
r42 18 37 0.0476429
r43 16 18 0.326018
r44 16 18 0.1167
r45 15 29 0.494161
r46 15 18 6.7686
r47 14 37 0.357321
r48 10 18 0.326018
r49 10 14 0.40845
r50 6 24 3.8511
r51 4 19 3.8511
r52 2 14 3.44265
.ends

.subckt PM_G3_LATQ1_N2_QN 2 4 6 8 20 23 33 37 40 45 48 53 69 Vss
c46 69 Vss 4.0109e-19
c47 53 Vss 0.0021144f
c48 48 Vss 0.00823447f
c49 45 Vss 0.00518254f
c50 40 Vss 7.20624e-19
c51 37 Vss 0.00663771f
c52 33 Vss 0.00663771f
c53 23 Vss 2.32346e-19
c54 20 Vss 0.211796f
c55 17 Vss 0.12596f
c56 15 Vss 0.0247918f
c57 4 Vss 0.137276f
r58 65 69 0.652036
r59 48 69 13.7956
r60 48 50 5.50157
r61 45 48 5.50157
r62 40 53 1.16709
r63 40 65 1.83386
r64 37 50 1.16709
r65 33 45 1.16709
r66 23 53 0.0476429
r67 21 23 0.326018
r68 21 23 0.1167
r69 20 24 0.652036
r70 20 23 6.7686
r71 17 53 0.357321
r72 15 23 0.326018
r73 15 17 0.40845
r74 8 37 0.185659
r75 6 33 0.185659
r76 4 24 3.8511
r77 2 17 3.44265
.ends

.subckt PM_G3_LATQ1_N2_GN 2 4 6 12 23 27 29 30 32 39 Vss
c44 39 Vss 0.0045172f
c45 32 Vss 8.57161e-19
c46 30 Vss 7.68504e-19
c47 29 Vss 0.00117249f
c48 27 Vss 0.00109299f
c49 23 Vss 0.00551775f
c50 12 Vss 0.171663f
c51 6 Vss 0.232172f
c52 4 Vss 0.00143442f
r53 32 39 1.16709
r54 29 32 0.531835
r55 29 30 1.70882
r56 25 30 0.652036
r57 25 27 4.91807
r58 23 27 1.16709
r59 14 39 0.197068
r60 12 16 0.652036
r61 12 14 4.668
r62 6 16 7.1187
r63 4 23 0.185659
r64 2 23 0.185659
.ends

.subckt PM_G3_LATQ1_N2_Q 2 4 13 18 Vss
c12 18 Vss 3.58669e-19
c13 13 Vss 0.004507f
c14 4 Vss 0.00143442f
r15 13 18 1.16709
r16 4 13 0.185659
r17 2 13 0.185659
.ends

.subckt PM_G3_LATQ1_N2_D 2 4 10 14 Vss
c14 14 Vss 4.15825e-19
c15 10 Vss 1.35847e-19
c16 2 Vss 0.475046f
r17 14 17 0.0416786
r18 10 17 1.16709
r19 4 10 7.7022
r20 2 10 7.7022
.ends

