* File: G3_LATQ1_N3.pex.netlist.pex
* Created: Tue Apr  5 12:00:00 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G3_LATQ1_N3_VDD 2 4 6 8 10 12 14 16 31 42 48 58 63 66 68 69 70 71 72
+ 75 77 81 85 90 92 98 103 Vss
c82 103 Vss 0.00476181f
c83 98 Vss 0.00486653f
c84 90 Vss 2.39889e-19
c85 85 Vss 0.00253232f
c86 83 Vss 0.0017055f
c87 81 Vss 0.00108379f
c88 77 Vss 0.0043713f
c89 75 Vss 8.9379e-19
c90 72 Vss 8.65746e-19
c91 71 Vss 0.00223415f
c92 70 Vss 8.64769e-19
c93 69 Vss 0.00576876f
c94 68 Vss 0.0113641f
c95 66 Vss 0.00582672f
c96 63 Vss 0.00607435f
c97 58 Vss 0.00819566f
c98 53 Vss 0.0307825f
c99 48 Vss 0.230506f
c100 44 Vss 1.68267e-19
c101 42 Vss 0.0357228f
c102 41 Vss 0.0656875f
c103 32 Vss 0.0359366f
c104 31 Vss 0.101312f
c105 16 Vss 0.00143493f
c106 14 Vss 0.191707f
c107 10 Vss 0.191287f
c108 8 Vss 0.189707f
c109 6 Vss 0.190072f
c110 4 Vss 0.189718f
r111 83 92 0.326018
r112 83 85 6.16843
r113 81 103 1.16709
r114 79 81 2.16729
r115 78 90 0.494161
r116 77 92 0.326018
r117 77 78 7.46046
r118 75 98 1.16709
r119 73 90 0.128424
r120 73 75 2.16729
r121 71 90 0.494161
r122 71 72 4.37625
r123 69 79 0.652036
r124 69 70 10.1279
r125 68 72 0.652036
r126 67 68 18.2969
r127 66 89 2.334
r128 66 67 0.14525
r129 65 70 0.652036
r130 65 66 5.54325
r131 63 85 1.16709
r132 58 89 1.16709
r133 49 53 0.494161
r134 48 50 0.652036
r135 48 49 6.8853
r136 45 53 0.128424
r137 44 103 0.0476429
r138 42 44 1.45875
r139 41 53 0.494161
r140 41 44 1.45875
r141 38 42 0.652036
r142 34 98 0.0476429
r143 32 34 1.45875
r144 31 35 0.652036
r145 31 34 1.45875
r146 28 32 0.652036
r147 16 63 0.123773
r148 14 50 5.1348
r149 12 63 0.123773
r150 10 45 5.1348
r151 8 38 5.1348
r152 6 28 5.1348
r153 4 35 5.1348
r154 2 58 0.123773
.ends

.subckt PM_G3_LATQ1_N3_VSS 2 4 6 8 10 12 14 16 31 32 34 42 48 58 63 66 71 76 81
+ 90 95 104 106 107 108 113 114 119 129 130 132 Vss
c74 130 Vss 3.75522e-19
c75 129 Vss 4.28045e-19
c76 125 Vss 0.00128551f
c77 119 Vss 0.00327372f
c78 114 Vss 8.25631e-19
c79 113 Vss 0.00434469f
c80 108 Vss 8.30816e-19
c81 107 Vss 0.00172205f
c82 106 Vss 0.00206535f
c83 104 Vss 0.00621153f
c84 95 Vss 0.00443295f
c85 90 Vss 0.0041985f
c86 81 Vss 0.00249073f
c87 76 Vss 9.5519e-19
c88 71 Vss 6.07136e-19
c89 66 Vss 0.0013933f
c90 63 Vss 0.0060193f
c91 58 Vss 0.00814768f
c92 53 Vss 0.0307825f
c93 48 Vss 0.231473f
c94 42 Vss 0.0348714f
c95 41 Vss 0.0647879f
c96 34 Vss 8.95828e-20
c97 32 Vss 0.0350852f
c98 31 Vss 0.0994129f
c99 16 Vss 0.191895f
c100 14 Vss 0.00143493f
c101 12 Vss 0.19162f
c102 10 Vss 0.189706f
c103 4 Vss 0.190073f
c104 2 Vss 0.18972f
r105 125 132 0.326018
r106 120 130 0.494161
r107 119 132 0.326018
r108 119 120 7.46046
r109 115 130 0.128424
r110 113 121 0.652036
r111 113 114 10.1279
r112 109 129 0.0828784
r113 107 130 0.494161
r114 107 108 4.37625
r115 106 114 0.652036
r116 105 129 0.551426
r117 105 106 5.50157
r118 104 129 0.551426
r119 103 108 0.652036
r120 103 104 18.3386
r121 81 125 6.16843
r122 76 95 1.16709
r123 76 121 2.16729
r124 71 90 1.16709
r125 71 115 2.16729
r126 66 109 1.82344
r127 63 81 1.16709
r128 58 66 1.16709
r129 49 53 0.494161
r130 48 50 0.652036
r131 48 49 6.8853
r132 45 53 0.128424
r133 44 95 0.0476429
r134 42 44 1.45875
r135 41 53 0.494161
r136 41 44 1.45875
r137 38 42 0.652036
r138 34 90 0.0476429
r139 32 34 1.45875
r140 31 35 0.652036
r141 31 34 1.45875
r142 28 32 0.652036
r143 16 50 5.1348
r144 14 63 0.123773
r145 12 45 5.1348
r146 10 38 5.1348
r147 8 63 0.123773
r148 6 58 0.123773
r149 4 28 5.1348
r150 2 35 5.1348
.ends

.subckt PM_G3_LATQ1_N3_G 2 4 6 14 15 22 31 37 Vss
c24 37 Vss 0.00266632f
c25 31 Vss 6.62558e-19
c26 29 Vss 0.0295325f
c27 22 Vss 0.152777f
c28 15 Vss 0.179526f
c29 14 Vss 2.0264e-19
c30 10 Vss 0.0247918f
c31 6 Vss 0.192371f
c32 4 Vss 0.193138f
c33 2 Vss 0.180487f
r34 34 37 1.16709
r35 31 34 0.0833571
r36 23 29 0.494161
r37 22 24 0.652036
r38 22 23 4.84305
r39 19 29 0.128424
r40 18 37 0.0476429
r41 16 18 0.326018
r42 16 18 0.1167
r43 15 29 0.494161
r44 15 18 6.7686
r45 14 37 0.357321
r46 10 18 0.326018
r47 10 14 0.40845
r48 6 24 5.1348
r49 4 19 5.1348
r50 2 14 4.72635
.ends

.subckt PM_G3_LATQ1_N3_QN 2 4 6 8 20 23 33 37 40 45 48 53 69 Vss
c43 69 Vss 4.86032e-19
c44 53 Vss 0.00238508f
c45 48 Vss 0.00856405f
c46 45 Vss 0.00518251f
c47 40 Vss 0.00103774f
c48 37 Vss 0.0113402f
c49 33 Vss 0.0113402f
c50 23 Vss 2.25442e-19
c51 20 Vss 0.214677f
c52 17 Vss 0.180502f
c53 15 Vss 0.0247918f
c54 4 Vss 0.191818f
r55 65 69 0.652036
r56 48 69 13.7956
r57 48 50 6.4185
r58 45 48 6.4185
r59 40 53 1.16709
r60 40 65 1.83386
r61 37 50 1.16709
r62 33 45 1.16709
r63 23 53 0.0476429
r64 21 23 0.326018
r65 21 23 0.1167
r66 20 24 0.652036
r67 20 23 6.7686
r68 17 53 0.357321
r69 15 23 0.326018
r70 15 17 0.40845
r71 8 37 0.123773
r72 6 33 0.123773
r73 4 24 5.1348
r74 2 17 4.72635
.ends

.subckt PM_G3_LATQ1_N3_GN 2 4 6 12 23 27 29 30 32 39 Vss
c39 39 Vss 0.00500045f
c40 32 Vss 6.08951e-19
c41 30 Vss 6.08791e-19
c42 29 Vss 0.00111596f
c43 27 Vss 0.00109183f
c44 23 Vss 0.00525048f
c45 14 Vss 1.82689e-19
c46 12 Vss 0.163012f
c47 6 Vss 0.285833f
c48 4 Vss 0.00143493f
r49 32 39 1.16709
r50 29 32 0.531835
r51 29 30 1.70882
r52 25 30 0.652036
r53 25 27 5.835
r54 23 27 1.16709
r55 14 39 0.197068
r56 12 16 0.652036
r57 12 14 4.668
r58 6 16 8.4024
r59 4 23 0.123773
r60 2 23 0.123773
.ends

.subckt PM_G3_LATQ1_N3_Q 2 4 13 18 Vss
c12 18 Vss 3.21524e-19
c13 13 Vss 0.00454527f
c14 4 Vss 0.00143493f
r15 13 18 1.16709
r16 4 13 0.123773
r17 2 13 0.123773
.ends

.subckt PM_G3_LATQ1_N3_D 2 4 10 14 Vss
c14 14 Vss 4.85129e-19
c15 10 Vss 1.35847e-19
c16 2 Vss 0.58413f
r17 14 17 0.0416786
r18 10 17 1.16709
r19 4 10 8.9859
r20 2 10 8.9859
.ends

